US07514460B2
The crude (6,7-dimethoxyquinazolin-4-yl)-(6-nitrobenzothiazol-2-yl)amine (383 mg, 1 mmol) was dissolved in dimethylformamide (100 mL). Palladium on charcoal (106 mg, 10% Pd, 0.1 mmol Pd) was added and the air was replaced with hydrogen (1 bar). The mixture was vigorously stirred for 5 h at 80° C. and then filtered through Celite. After removal of the solvent in vacuo and subsequent drying, pure N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine was obtained as a tawny powder (202 mg, 0.57 mmol, 57%). LC/ESI-MS: m/z=354 [M+H]+; m/z=352 [M−H]−; Rt=2.15 mm.

reactant | (6,7-dimethoxyquinazolin-4-yl)-(6-nitrobenzothiazol-2-yl)amine | 1 mmol, 383 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C17H13N5O4S
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | Palladium on charcoal | 0.1 mmol, 106 mg | [Pd] | Pd
product | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
